US09102623B2
A14.2) 5-Bromo-6-[chloro(difluoro)methyl]-N-(cyclopropylmethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
At room temperature, 350 mg (1.11 mmol) of methyl 5-bromo-6-[chloro(difluoro)methyl]-2-oxo-1,2-dihydropyridine-3-carboxylate were dissolved in 5 ml of acetonitrile and stirred with 0.5 ml of aminomethylcyclopropane for 12 h. The reaction mixture was then added to 1N hydrochloric acid, and the resulting precipitate was filtered off with suction. The precipitate was dried, again triturated with 1N hydrochloric acid, filtered off with suction and washed with water. Drying gave 240 mg (62% of theory) of the product.

reactant | methyl 5-bromo-6-[chloro(difluoro)methyl]-2-oxo-1,2-dihydropyridine-3-carboxylate | 1.11 mmol, 350 mg | BrC=1C=C(C(NC1C(F)(F)Cl)=O)C(=O)OC | C8H5BrClF2NO3
reactant | aminomethylcyclopropane | 0.5 ml | NCC1CC1 | C4H9N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 5-Bromo-6-[chloro(difluoro)methyl]-N-(cyclopropylmethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | BrC=1C=C(C(NC1C(F)(F)Cl)=O)C(=O)NCC1CC1 | C11H10BrClF2N2O2
